US06271225B1
In the same manner as in Starting Material Synthesis Example 19 and using ethyl 2-(4-methyl-2-nitroanilino)benzo[b]thiophene-3-carboxylate (6.5 g), ethyl acetate (140 ml), 10% palladium-carbon and hydrogen (500 mg, 60 atm kg/cm2), ethyl 2-(2-amino-4-methylanilino)benzo[b]thiophene-3-carboxylate (3.7 g) was obtained.

reactant | ethyl 2-(4-methyl-2-nitroanilino)benzo[b]thiophene-3-carboxylate | 6.5 g | CC1=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C1)[N+](=O)[O-] | C18H16N2O4S
reactant | hydrogen | 500 mg | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-amino-4-methylanilino)benzo[b]thiophene-3-carboxylate | 3.7 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC(=C1)C | C18H18N2O2S
